US05550131
In 15 ml of dichloromethane were dissolved 1.65 g of (S)-3-methoxycarbonylmethyl-2-oxopiperazine-1-acetic acid tert-butyl ester and 1.9 g of N-benzyloxycarbonyl-L-tyrosine. To the solution was added, while stirring for one hour, 1.44 g of 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride, and the mixture was stirred for one hour. The reaction mixture was concentrated under reduced pressure to leave an oily substance, which was dissolved in ethyl acetate. The organic layer was washed with a 5% aqueous solution of potassium hydrogen carbonate and dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was subjected to a silica gel column chromatography (eluent: ethyl acetate: hexane=7:3) to afford 2.0 g of (S)-4-(N-benzyloxycarbonyl-L-tyrosyl)-3-methoxycarbonylmethyl-2-oxopiperazine-1-acetic acid tert-butyl ester as a colorless oily product. IR γmax cm-1 : 3332, 2952, 1740, 1646, 1613, 1514, 1444, 1367, 1227, 1153. NMR(CDCl3) δ: 1.46(9H,s), 2.30-2.53(1H,m), 2.72-3.13(5H,m), 3.50-3.72(2H,m), 3.63(3H,s), 3.85(1H,d,J=12 Hz), 4.07(1H,d,J=12 Hz), 4.70-4.90(1H,m), 4.90-5.05(1H,m), 5.11(2H,s), 5.50-5.67(2H,m), 6.76(2H,d,J=8.2 Hz), 7.03(2H,d,J=8.2 Hz), 7.36(5H,s).

reactant | (S)-3-methoxycarbonylmethyl-2-oxopiperazine-1-acetic acid tert-butyl ester | 1.65 g | C(C)(C)(C)OC(CN1C([C@@H](NCC1)CC(=O)OC)=O)=O | C13H22N2O5
reactant | N-benzyloxycarbonyl-L-tyrosine | 1.9 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C17H17NO5
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride | 1.44 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-4-(N-benzyloxycarbonyl-L-tyrosyl)-3-methoxycarbonylmethyl-2-oxopiperazine-1-acetic acid tert-butyl ester | 2.0 g | C(C)(C)(C)OC(CN1C([C@@H](N(CC1)C([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)O)=O)CC(=O)OC)=O)=O | C30H37N3O9
